US06162927
N-Boc-N-propyl-N-propoxyamine
N-Boc-N-propyl-O-allylhydroxylamine (6.0 g) was dissolved in EtOAc (100 mL). 10% Palladium-on-carbon (0.5 g) was added, and the mixture was purged with nitrogen. The nitrogen line was exchanged for a balloon of hydrogen, and the mixture was stirred at room temperature for 6 hours. The catalyst was removed by filtration through a pad of Celite and the solvents were removed in vacuo to give a yellow oil which was purified by flash chromatography on silica gel eluting with 5% EtOAc/hexanes to give the title compound as a colorless oil (5.8 g).

reactant | N-Boc-N-propyl-O-allylhydroxylamine | 6.0 g | C(=O)(OC(C)(C)C)N(OCC=C)CCC | C11H21NO3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium-on-carbon | 0.5 g | [Pd] | Pd
product | N-Boc-N-propyl-N-propoxyamine | 5.8 g | C(=O)(OC(C)(C)C)N(OCCC)CCC | C11H23NO3
